US05606010
Preparation of o-benzoquinone-trimethyl-hexamethylene-diamine polymer
About 37.93 g (0.24 mol) trimethyl-hexamethylene-diamine and about 0.6 g (0.0024 mol) copper sulfate pentahydrate were dissolved in about 400 mL of methanol. About 26.4 g (0.24 mol) of catechol (chemical name 1,2-dihydroxybenzene) acting as both the quinone precursor and catalyst was added to the reactant mixture. A gentle stream of oxygen at a flow rate of about 50 cc/min was then passed through the reaction mixture for about three hours, while maintaining the reaction temperature around 20°-25 ° C. At the end of three hours the oxygen supply was cut off and the reaction mixture was concentrated under vacuum using a rotary evaporator. The o-benzoquinone-trimethyl-hexamethylene-diamine polymer was precipitated in excess water, washed extensively and dried under vacuum for about 6 hours at a temperature of about 30° C.

reactant | trimethyl-hexamethylene-diamine | 0.24 mol, 37.93 g | CNCCCCCCN(C)C | C9H22N2
reactant | catechol | 0.24 mol, 26.4 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | oxygen | O=O | O2
solvent | methanol | about 400 mL | CO | CH4O
catalyst | copper sulfate pentahydrate | 0.0024 mol, about 0.6 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | o-benzoquinone trimethyl-hexamethylene-diamine | C1(C(C=CC=C1)=O)=O.CNCCCCCCN(C)C | InChI=1S/C9H22N2.C6H4O2/c1-10-8-6-4-5-7-9-11(2)3;7-5-3-1-2-4-6(5)8/h10H,4-9H2,1-3H3;1-4H
